US09259470B2
4-Methoxy-4-methylmorpholin-4-ium (1.5 g, 12.8 mmol), water (10 mL), and OsO4 (250 mg, 1 mmol) in water (10 mL) were added to a mixture of tert-butyl 2-vinyl-1H-indole-1-carboxylate (2.60 g, 10.7 mmol) in acetone (15 mL) and THF (15 mL). After being stirred at room temperature for 16 hours, saturated Na2SO3 was added, and the resulting mixture was stirred for 30 minutes. The insoluble material was filtered off. The filtrate was extracted with ethyl acetate (2×100 mL), washed with brine, dried, and concentrated to give tert-butyl 2-(1,2-dihydroxyethyl)-1H-indole-1-carboxylate (2.0 g, 69% yield) as an oil.

reactant | 4-Methoxy-4-methylmorpholin-4-ium | 12.8 mmol, 1.5 g | CO[N+]1(CCOCC1)C
reactant | tert-butyl 2-vinyl-1H-indole-1-carboxylate | 10.7 mmol, 2.60 g | C(=C)C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C15H17NO2
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
reactant | water | 10 mL | O | H2O
reactant | water | 10 mL | O | H2O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | OsO4 | 1 mmol, 250 mg | O=[Os](=O)(=O)=O
product | tert-butyl 2-(1,2-dihydroxyethyl)-1H-indole-1-carboxylate | 2.0 g, 69% yield | OC(CO)C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C15H19NO4
